US08604024B2
An oven dried vial was charged with brettphos precatalyst (12 mg, 0.014 mmol), brettphos (7.6 mg, 0.014 mmol), 2,3-dichloropyridine (8.5 mg, 0.058 mmol), tert-butyl rel-((4aS,11bS)-10-amino-11b-methyl-4a,5,6,11b-tetrahydro-4H-benzo[2,3]oxepino[4,5-d][1,3]thiazin-2-yl)carbamate from preparation I (25 mg, 0.069 mmol) and LiHMDS (14 mg, 0.086 mmol). The vial was purged with nitrogen. Dioxane (1 mL) was added. The vial was placed in a preheated oil bath at 100° C. for 1 h. The reaction was then diluted with ethyl acetate and saturated aqueous ammonium chloride solution. The organic layer was washed with water, brine, and dried over sodium sulfate. The organic layer was filtered and concentrated in vacuo to afford tert-butyl rel-((4aS,11bS)-10-((3-chloropyridin-2-yl)amino)-11b-methyl-4a,5,6,11b-tetrahydro-4H-benzo[2,3]oxepino[4,5-d][1,3]thiazin-2-yl)carbamate (27 mg, 0.057 mmol, 99% yield). The crude material was used in the next step without further purification. MS (M+H)+=475.26.

reactant | brettphos | 0.014 mmol, 7.6 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC(=C2P(C3CCCCC3)C4CCCCC4)OC)OC)C(C)C | C35H53O2P
reactant | 2,3-dichloropyridine | 0.058 mmol, 8.5 mg | ClC1=NC=CC=C1Cl | C5H3Cl2N
reactant | tert-butyl rel-((4aS,11bS)-10-amino-11b-methyl-4a,5,6,11b-tetrahydro-4H-benzo[2,3]oxepino[4,5-d][1,3]thiazin-2-yl)carbamate | NC1=CC2=C(OCC[C@H]3[C@@]2(N=C(SC3)NC(OC(C)(C)C)=O)C)C=C1 | C18H25N3O3S
reactant | LiHMDS | 0.086 mmol, 14 mg | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
catalyst | brettphos precatalyst | 0.014 mmol, 12 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC(=C2P(C3CCCCC3)C4CCCCC4)OC)OC)C(C)C.C1=CC=C([C-]=C1)CCN.Cl[Pd+]
product | tert-butyl rel-((4aS,11bS)-10-((3-chloropyridin-2-yl)amino)-11b-methyl-4a,5,6,11b-tetrahydro-4H-benzo[2,3]oxepino[4,5-d][1,3]thiazin-2-yl)carbamate | 0.057 mmol, 27 mg, 99% yield | ClC=1C(=NC=CC1)NC1=CC2=C(OCC[C@H]3[C@@]2(N=C(SC3)NC(OC(C)(C)C)=O)C)C=C1 | C23H27ClN4O3S
